### ISSUE TITLE
`refl` doesn't handle inductive values as expected in a certain case

### ISSUE THREAD

**Issue by ghost** [leanprover/lean3#1789]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean/issues).
        * Specifically, check out the [wishlist](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

It would be natural to expect `refl` to work in the following case, but actually it doesn't.

### Steps to Reproduce

Run the following code:

```
inductive a : Type
| foo : a → a
| bar : list a → a

definition f : a → a
| (a.foo x)         := a.foo x
| (a.bar [])        := a.bar []
| (a.bar (x :: xs)) := a.bar (f x :: xs)

example : ∀ x, f (a.foo x) = (a.foo x) :=
begin
  intros,
  refl
end
```

**Expected behavior:** [What you expect to happen]

No errors

**Actual behavior:** [What actually happens]

Lean detects an error at the `refl`, saying "invalid apply tactic, failed to unify `f (a.foo x) = a.foo x` with `?m_2 = ?m_2`".

**Reproduces how often:** [What percentage of the time does it reproduce?]

100%

### Versions

Lean (version 3.2.0, Release), macOS 10.12.6

### Additional Information

The code passes type checking if you replace `a.bar (f x :: xs)` with `a.bar (x :: xs)`.

**Comment by gebner** [comment]
This happens because `f` is defined via well-founded recursion, and then the equations for `f` don't hold definitionally.  In particular, `f (foo x) = foo x` is not true definitionally.  You can unfold `f (foo x)` manually using `simp [f]` or `unfold f`.

**Comment by ghost** [comment]
Thank you for your answer. Now I partially understand what is happening here.
But I still have an issue: `unfold f` doesn't change the goal in this case. Suppose I write the following code after the definition of `a` and `f`:
```
example : ∀ x, f (a.foo x) = (a.foo x) :=
begin
  intros,
  unfold f, -- (no effect)
  simp [f]
end
```
Though I can prove the equation using `simp [f]` (thank you!), I at the same time notice that the line `unfold f` does not change the goal from `f (a.foo x) = a.foo x`. I cannot find the reason.

Also, now I have to ask another question (I seem to have simplified the example too much). In the following code, even `simp [f]` doesn't work:
```
instance : has_inv a := has_inv.mk f

example : ∀ x, (a.foo x)⁻¹ = (a.foo x) :=
begin
  intros,
  -- simp [f] -- doesn't work
  -- refl     -- doesn't work
  unfold f,   -- (no effect)
  admit
end
```
I vaguely suspect that this is something related to `reducible`, but again I find it difficult to work out. Could you please guide me?

**Comment by gebner** [comment]
For me, `unfold f` works in this example.  So it will work in the next release.

For the inverse type class, you need to unfold `has_inv.inv` first:
```lean
example : ∀ x, (a.foo x)⁻¹ = (a.foo x) :=
by intros; unfold has_inv.inv f

example : ∀ x, (a.foo x)⁻¹ = (a.foo x) :=
by intros; simp [has_inv.inv, f]
```

**Comment by ghost** [comment]
Thank you for your kindness. I have got the point.
By the way, I should have tried the example using the latest commit. I'm sorry to bother you. I will be careful next time.
